US07528140B2
{[(4-Chlorophenyl)amino]methylene}methane-1,1-dicarbonitrile was synthesized in the same manner using (ethoxymethylene)methane-1,1-dicarbonitrile and 4-chloroaniline. The NMR data for this compound are shown below.

reactant | (ethoxymethylene)methane-1,1-dicarbonitrile | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | {[(4-Chlorophenyl)amino]methylene}methane-1,1-dicarbonitrile | ClC1=CC=C(C=C1)NC=C(C#N)C#N | C10H6ClN3
